US07368479B2
Oxalylchloride (1.0 ml, 0.011 mmol) is added to a solution of dimethylsulfoxide (DMSO) (1.7 ml, 0.022 mol) in methylenechloride (20 ml) at −60° C. 1-(4-Chlorophenoxy)-butan-2-ol (2.0 g, 0.01 mol) is added in one portion. After 15 minutes triethylamine (7 ml, 0.05 mol) is added and the reaction temperature is allowed to warm up and reach 0° C. The mixture is diluted with diethylether and washed repeatedly with brine. The organic phase is dried, filtered evaporated to give the 1-(4-chlorophenoxy)-butane-2-one.

reactant | Oxalylchloride | 0.011 mmol, 1.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.022 mol, 1.7 ml | CS(=O)C | C2H6OS
reactant | 1-(4-Chlorophenoxy)-butan-2-ol | 0.01 mol, 2.0 g | ClC1=CC=C(OCC(CC)O)C=C1 | C10H13ClO2
reactant | triethylamine | 0.05 mol, 7 ml | C(C)N(CC)CC | C6H15N
solvent | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | 1-(4-chlorophenoxy)-butane-2-one | ClC1=CC=C(OCC(CC)=O)C=C1 | C10H11ClO2
